US07259266B2
Step 4. Preparation of 6,7-dimethyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To the mixture of ethyl 6-methyl-2-(trifluoromethyl)-7-{[(trifluoromethyl) sulfonyl]-oxy}-2H-chromene-3-carboxylate (0.3 g, 0.7 mmol), potassium carbonate(0.378 g, 2.73 mmol), tetrakis(triphenylphosphine)palladium (0) (81 mg, 0.07 mmol) and 3 mL of anhydrous DMF was added trimethylboraxine(292 uL, 2.1 mmol). The resulting mixture was heated to 110° C., and stirred at 110° C. for two hrs. LC-MS indicated that the reaction was done. To the reaction was added 100 mL of EtOAc, the resulting organic solution was washed with brine, and dried over anhydrous magnesium sulfate. After removing the volatiles, the residue was purified on silica gel column with 1:9 EtOAc/hexane. It gave a white solid, about 180 mg. The purified white solid was dissolved in 3 mL of THF, to the resulting solution was added lithium hydroxide hydrate (118 mg, 2.8 mmol), 3 mL of water and 3 mL of ethanol, the resulting solution was heated to 80° C. and stirred for 45 min. After cooling to room temperature, the volatiles were removed on rotavapor, the residue was diluted with water, and acidified in ice bath with ice cold dilute hydrochloric acid. Plenty of white precipitates were formed. The solid was filtered and washed with water, and dried in vacuum. The crude product was then purified on reverse phase HPLC. It gave a white solid, 70 mg. 1H NMR (CDCl3/CD3OD/300 MHz) 7.73(s, 1H), 6.97(s, 1H), 6.79(s, 1H), 5.65(q, J=6.6 Hz), 2.25(s, 3H), 2.19(s, 3H). 13C NMR(CDCl3/ CD3OD/300 MHz) 167.0, 151.8, 143.2, 138.3, 131.0, 130.4, 123.9(q, J=287.9 Hz), 117.1, 116.9, 115.2, 70.7(q, J=32.7 Hz), 20.5, 18.9. 19F NMR(CDCl3/ CD3OD/300 MHz) −78.97(d, J=6.5 Hz). LC-MS (ES+):273.2 (M+1, 100). High resolution Mass (ES−): m/z calc. For C13H10F3O3: 271.0582(M−H), found: 271.0563.

reactant | ethyl 6-methyl-2-(trifluoromethyl)-7-{[(trifluoromethyl) sulfonyl]-oxy}-2H-chromene-3-carboxylate | 0.7 mmol, 0.3 g | CC=1C=C2C=C(C(OC2=CC1OS(=O)(=O)C(F)(F)F)C(F)(F)F)C(=O)OCC | C15H12F6O6S
reactant | potassium carbonate | 2.73 mmol, 0.378 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | lithium hydroxide hydrate | 2.8 mmol, 118 mg | O.[OH-].[Li+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.07 mmol, 81 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | 3 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 6,7-dimethyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | CC=1C=C2C=C(C(OC2=CC1C)C(F)(F)F)C(=O)O | C13H11F3O3
